US05244908
Synthesis of 5-[2-(methylsulfonylamino)ethylthio]imidazo[1,2-a]pyridine.hydrochloride (Compound 2)
A suspension of 5-[2-(methylsulfonylamino)ethylthio]imidazo[1,2-a]pyridine (543 g, 2 mmoles) in methanol (20 ml) was treated with hydrogen chloride-methanol. After the solvent was distilled off, the residue was crystallized from chloroform ether. Then, the crystals thus obtained were washed with ether and dried to obtain 550 mg of the desired product (89.3%, colorless crystals).

reactant | 5-[2-(methylsulfonylamino)ethylthio]imidazo[1,2-a]pyridine | 2 mmoles, 543 g | CS(=O)(=O)NCCSC1=CC=CC=2N1C=CN2 | C10H13N3O2S2
reactant | hydrogen chloride methanol | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 5-[2-(methylsulfonylamino)ethylthio]imidazo[1,2-a]pyridine.hydrochloride | 550 mg, 89.3% | Cl.CS(=O)(=O)NCCSC1=CC=CC=2N1C=CN2 | InChI=1S/C10H13N3O2S2.ClH/c1-17(14,15)12-6-8-16-10-4-2-3-9-11-5-7-13(9)10;/h2-5,7,12H,6,8H2,1H3;1H
